US07960561B2
N-(Benzimidazol-2-yl)-3-chloro-4-fluoroaniline
The title compound was prepared from 2-chlorobenzimidazole and 3-chloro-4-fluoroaniline by Procedure A. The product was isolated by filtration to give the title compound as a hydrochloride salt (white solid, mp 306-307° C.). MS(ES+) m/z 262 ([M+1]+, 100).

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 3-chloro-4-fluoroaniline | ClC=1C=C(N)C=CC1F | C6H5ClFN
product | N-(Benzimidazol-2-yl)-3-chloro-4-fluoroaniline | N1=C(NC2=C1C=CC=C2)NC2=CC(=C(C=C2)F)Cl | C13H9ClFN3
